US06147073
To a solution of 1,4-naphthoquinone (10 g, 63.3 mM) in glacial acetic acid were added platinum oxide (0.75 g, 3.3 mM) and the mixture was hydrogenated in a Parr apparatus under a pressure of 30-40 psi for about 24 h at room temperature. The catalyst was filtered off, the acetic acid was evaporated under vacuum, the residue was dissolved in hot water (200 ml) and the solution cooled to give crystalline 1,4-dihydroxytetralin in 58.3% yield (4.0 g).

reactant | 1,4-naphthoquinone | 63.3 mM, 10 g | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 3.3 mM, 0.75 g | [Pt]=O
product | 1,4-dihydroxytetralin | 58.3% yield | OC1CCC(C2=CC=CC=C12)O | C10H12O2
